US06673511B1
While vigorously stirring at 0° C., 5.00 g of 28% aqueous ammonia was added to 21.2 g of methyl acrylate. The resulting mixture was heated gradually to 25° C. over 20 hours. After concentration under reduced pressure, the residue was-purified by distillation under reduced pressure, whereby tris(2-methoxycarbonylethyl)amine was obtained (boiling point: 143° C./70 Pa, yield: 76%),

reactant | ammonia | 5.00 g | N | H3N
reactant | methyl acrylate | 21.2 g | C(C=C)(=O)OC | C4H6O2
product | tris(2-methoxycarbonylethyl)amine | yield: 76% | COC(=O)CCN(CCC(=O)OC)CCC(=O)OC | C12H21NO6
